US05589474
(a) 2-(2-Aminophenylthio)-5-nitrobenzonitrile
2-Aminothiophenol (6.26 g, 50 mmol) was added to a mixture of sodium hydride (2.0 g of 60% oil dispersion, 50 mmol) in DMF (100 ml) at 0° under nitrogen. After stirring for 30 minutes at 0°, 2-fluoro-5-nitrobenzonitrile (8.3 g, 50 mmol) in DMF (20 ml) was added and the mixture kept at room temperature overnight. The reaction mixture was evaporated and azeotroped with toluene, then the residue was partitioned between chloroform and water and the layers separated. Drying (sodium sulphate) and evaporation of the organic layer gave a residue which was separated from chloroform as bright yellow crystals (10.1 g, Rf 0.52 in 1:1 ethyl acetate/hexane).

reactant | 2-Aminothiophenol | 50 mmol, 6.26 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | sodium hydride | 50 mmol, 2.0 g | [H-].[Na+]
reactant | 2-fluoro-5-nitrobenzonitrile | 50 mmol, 8.3 g | FC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3FN2O2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(2-Aminophenylthio)-5-nitrobenzonitrile | NC1=C(C=CC=C1)SC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C13H9N3O2S
